### ISSUE TITLE
Change by lampe noir str<_> to lean String

### ISSUE THREAD

**Issue by piohei** [reilabs/lampe#91]
It could be easier to work with str<_> noir types in testing when they are changed to lean String type.

Current state:

```
nr_def «hello»<>() -> str<13> {
    "hello-git-dep"
}

def res := "abc"

-- set_option autoImplicit false
theorem t1 {lp}: STHoare lp env (⟦⟧)
    (TestDep.«0.0.0».Extracted.GitDep.«0.0.0».hello.call h![] h![])
      fun output => (String.mk output.toList) = res := by
  enter_decl
  simp only [TestDep.«0.0.0».Extracted.GitDep.«0.0.0».hello]
  steps []
  subst_vars
  unfold hello2
  rfl
```

Lean output
```
case h_rest.h_ent.a.a.a.a.a
env : Env
lp : Lampe.Prime
⊢ {
    data :=
      List.Vector.toList
        ⟨['h', 'e', 'l', 'l', 'o', '-', 'g', 'i', 't', '-', 'd', 'e', 'p'], Extracted.GitDep.«0.0.0».hello.proof_1⟩ } =
  "abc"
```
